US03992544
5-Benzyl-4,5,6,7-tetrahydro-1,2,7-trimethyl-1H-pyrrolo[3,2-c]pyridine
Using a procedure analogous to Example 3, 3-acetonyl-1-benzyl-5-methyl-4-piperidone may be reacted with methylamine to give the title compound.

reactant | 3-acetonyl-1-benzyl-5-methyl-4-piperidone | C(C(=O)C)C1CN(CC(C1=O)C)CC1=CC=CC=C1 | C16H21NO2
reactant | methylamine | CN | CH5N
product | 5-Benzyl-4,5,6,7-tetrahydro-1,2,7-trimethyl-1H-pyrrolo[3,2-c]pyridine | C(C1=CC=CC=C1)N1CC2=C(C(C1)C)N(C(=C2)C)C | C17H22N2
